### PR TITLE
[Merged by Bors] - feat(MeasureTheory/SimpleFunc): add instances of algebraic structures

### PR DESCRIPTION
**Pull request by JonBannon**
This adds a `Star` instance on simple functions into a type with a star structure, the associated `coe_star` lemma, and the relevant algebraic compatibility instances (e.g., `StarMul`) when the codomain is equipped with these.

We also add several missing instances (mostly `Ring`-like and `Algebra`-like).

This PR is the first in a series of small PRs aimed at providing a `CStarAlgebra` instance for L^∞ functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 1]
```diff
@@ -1025,6 +1025,26 @@ theorem lintegral_map {β} [MeasurableSpace β] (g : β →ₛ ℝ≥0∞) {f :
...
+instance : Star (α →ₛ R) where
+  star f := f.map Star.star
+
+lemma star_apply (f : α →ₛ R) (x : α) : (star f) x = star (f x) := rfl
+
+end Star
+
+section InvolutiveStar
+
+variable {R : Type*} [TopologicalSpace R] [InvolutiveStar R] [ContinuousStar R]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: I didn't see why you need the topology here.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 2]
```diff
@@ -1025,6 +1025,26 @@ theorem lintegral_map {β} [MeasurableSpace β] (g : β →ₛ ℝ≥0∞) {f :
...
+
+instance : InvolutiveStar (α →ₛ R) where
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Can you add all the other algebraic star instances here (`StarAddMonoid`, `StarMul`, `StarRing`)?

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 1 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: I absolutely do not. I blindly copied the variable declarations. thanks!

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 3]
```diff
@@ -1025,6 +1025,35 @@ theorem lintegral_map {β} [MeasurableSpace β] (g : β →ₛ ℝ≥0∞) {f :
...
+  star_add := fun _ _ => by ext; simp [star_apply]
+
+instance [Mul R] [StarMul R] : StarMul (α →ₛ R) where
+  star_mul := fun _ _ => by ext; simp [star_apply]
+
+instance [NonUnitalNonAssocSemiring R] : NonUnitalNonAssocSemiring (α →ₛ R) where
+  left_distrib := fun _ _ _ => by ext; simp [left_distrib]
+  right_distrib := fun _ _ _ => by ext; simp [right_distrib]
+  zero_mul := fun _ => by ext; simp
+  mul_zero := fun _ => by ext; simp
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This doesn't belong here. Can you place it next to the other algebra instances (around line 550)? Also, if we're really missing ring-like algebra structures for `SimpleFunc`, can you add those too?

Also, you should move the entire `Star` section immediately after that, instead of having it all the way down here.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 4]
```diff
@@ -1025,6 +1025,35 @@ theorem lintegral_map {β} [MeasurableSpace β] (g : β →ₛ ℝ≥0∞) {f :
...
   Eq.symm <| lintegral_map' _ _ f (fun _ => rfl) fun _s hs => Measure.map_apply hf hs
 
+section Star
+
+variable {R : Type*}
+
+instance [Star R] : Star (α →ₛ R) where
+  star f := f.map Star.star
+
+lemma star_apply [Star R] (f : α →ₛ R) (x : α) : (star f) x = star (f x) := rfl
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: note the parens are not needed on the LHS
```suggestion
@[simp]
lemma star_apply [Star R] (f : α →ₛ R) (x : α) : star f x = star (f x) := rfl
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 5]
```diff
@@ -1025,6 +1025,35 @@ theorem lintegral_map {β} [MeasurableSpace β] (g : β →ₛ ℝ≥0∞) {f :
...
+
+instance [InvolutiveStar R] : InvolutiveStar (α →ₛ R) where
+  star_involutive := fun _ => by ext; simp [star_apply]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: 1. We generally place the introductory `fun _ ↦` before the colon when building structures, as in: `star_involutive _ := by ...`
2. In cases where the terms are this straightforward to build, I generally just build them by hand so we don't bother spinning up `simp`.
```suggestion
  star_involutive _ := ext fun _ ↦ star_star _ 
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 6]
```diff
@@ -1025,6 +1025,35 @@ theorem lintegral_map {β} [MeasurableSpace β] (g : β →ₛ ℝ≥0∞) {f :
...
+
+instance [AddMonoid R] [StarAddMonoid R] : StarAddMonoid (α →ₛ R) where
+  star_add := fun _ _ => by ext; simp [star_apply]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]:
```suggestion
  star_add _ _ := ext fun _ ↦ star_add ..
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 7]
```diff
@@ -1025,6 +1025,35 @@ theorem lintegral_map {β} [MeasurableSpace β] (g : β →ₛ ℝ≥0∞) {f :
...
+
+instance [Mul R] [StarMul R] : StarMul (α →ₛ R) where
+  star_mul := fun _ _ => by ext; simp [star_apply]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]:
```suggestion
  star_mul _ _ := ext fun _ ↦ star_mul ..
```
and likewise for the rest.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 8]
```diff
@@ -553,6 +553,56 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+  mul_zero _ := ext fun _ ↦ mul_zero ..
+
+instance [Semiring β] : Semiring (α →ₛ β) where
+
+instance [Monoid K] [Semiring β] [MulAction K β] : MulAction K (α →ₛ β) where
+  one_smul _ := ext fun _ ↦ one_smul ..
+  mul_smul _ _ _ := ext fun _ ↦ mul_smul ..
+
+/-- Convenience constructor providing `toFun` for `Algebra K (α →ₛ β)` instance. -/
+def simpleFuncAlgebraMap [CommSemiring K] [Semiring β] [Algebra K β] : K →+* α →ₛ β :=
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This shouldn't be a standalone def, you should just inline it. And it's not a "convenience constructor", FYI.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 9]
```diff
@@ -553,6 +553,56 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+    map_mul' _ _ := ext fun _ ↦ algebraMap K β |>.map_mul ..
+    map_zero' := ext fun _ ↦ algebraMap K β |>.map_zero ▸ rfl
+    map_add' _ _ := ext fun _ ↦ algebraMap K β |>.map_add ..}
+
+/-- Convenience constructor providing `commutes` for `Algebra K (α →ₛ β)` instance. -/
+lemma algebraMap_const_mul_comm [CommSemiring K] [Semiring β] [Algebra K β] :
+     ∀ (c : K), ∀ (f : α →ₛ β), simpleFuncAlgebraMap c * f = f * simpleFuncAlgebraMap c :=
+  fun _ _ => ext fun _ => Algebra.commutes ..
+
+instance [CommSemiring K] [Semiring β] [Algebra K β] : Algebra K (α →ₛ β) :=
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This should have an associated lemma saying what `algebraMap` is.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 8 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Is this because I am not constructing the fields in some other way, but just constructing the field outside the declaration? (quoting your def of "convenience constructor" : A convenience constructor is a tool (some declaration) to build an element of that structure in some way other than supplying all the usual fields." I'm guessing I am still supplying the field, but not in the actual declaration of the structure?

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: OH! This one is definitely not a convenience constructor...I'm just building part of the declaration outside...would it be right to say that the use of `simpleFuncAlgebraMap.toAlgebra' algebraMap_const_mul_comm` would be employing a convenience constructor? (There I wouldn't be just filling in the fields.)

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: To be clear, the `toAlgebra'` is the convenience constructor, here, right?

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 9 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Ok. will inline all of this...

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 10]
```diff
@@ -553,6 +553,49 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+  mul_smul _ _ _ := ext fun _ ↦ mul_smul ..
+
+instance [CommSemiring K] [Semiring β] [Algebra K β] : Algebra K (α →ₛ β) :=
+  RingHom.toAlgebra'
+    { toFun _ := const α <| algebraMap K β _
+      map_one' := SimpleFunc.ext fun _ => algebraMap K β |>.map_one ▸ rfl
+      map_mul' _ _:= ext fun _ => algebraMap K β |>.map_mul _ _
+      map_zero' := SimpleFunc.ext fun _ => algebraMap K β |>.map_zero ▸ rfl
+      map_add' _ _ := ext fun _ => algebraMap K β |>.map_add _ _ }
+    fun c f => ext fun _ => Algebra.commutes c <| f _
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: You should just be using `Algebra K (α →ₛ β) where` here. As is, I'm relatively confident you're introducing a diamond for the `SMul K (α →ₛ β)` instance, because the existing instance is defined by `k • f := ⟨k • ⇑f, _, _⟩` and the one you're defining is `k • f := const α (algebraMap K β k) * f`. (You should check, and then change it regardless).

The way you check is this:
```
example : Algebra.toSMul (R := K) (A := α →ₛ β) = instSMul := by with_reducible_and_instances rfl
```
If this fails, then it's a (non-defeq) diamond.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 11]
```diff
@@ -553,6 +553,49 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
 theorem smul_eq_map [SMul K β] (k : K) (f : α →ₛ β) : k • f = f.map (k • ·) :=
   rfl
 
+instance [NonUnitalNonAssocSemiring β] : NonUnitalNonAssocSemiring (α →ₛ β) where
+  left_distrib _ _ _ := ext fun _ ↦ left_distrib ..
+  right_distrib _ _ _ := ext fun _ ↦ right_distrib ..
+  zero_mul _ := ext fun _ ↦ zero_mul ..
+  mul_zero _ := ext fun _ ↦ mul_zero ..
+
+instance [Semiring β] : Semiring (α →ₛ β) where
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: There are other ring-like structures to include here. `NonUnitalSemiring`, all the non-semi variants. Commutative versions.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 10 above)
Comment (j-loreaux) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Oh, and you didn't include the lemma giving the definition of `algebraMap K (α →ₛ β)`.

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Sure enough this is a diamond!

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Annoyingly, though, the version with just `where` doesn't work...which is why I went into all of this. Let me see...

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: I guess I didn't (and perhaps still don't) understand what you meant about the lemma defining `algebraMap K (α →ₛ β)`. I thought I had just bundled this into the definition, but instead I guess I made a diamond!

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Oh...you must mean the "use lemma" for `algebraMap`, like `algebraMap_apply`?

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean:575]: Oh wait...I guess what you are saying is if I can define an algebra map, the declaration can use it directly...that sounds good...let me try that...

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 11 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Cool. Will work on these, too.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 10 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: How about this:

instance [CommSemiring K] [Semiring β] [Algebra K β] : IsScalarTower K (α →ₛ β) (α →ₛ β) where
  smul_assoc _ _ _ := ext fun _ ↦ Algebra.smul_mul_assoc ..

instance [CommSemiring K] [Semiring β] [Algebra K β] : SMulCommClass K (α →ₛ β) (α →ₛ β) where
  smul_comm _ _ _ := ext fun _ ↦ by simp

instance [CommSemiring K] [Semiring β] [Algebra K β] : Algebra K (α →ₛ β) :=
   Algebra.ofModule' smul_one_mul mul_smul_one

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Second one above still spins up simp...will golf. I can't get this down to only `where`...

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 12]
```diff
@@ -553,6 +553,87 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+  commutes' _ _ := ext fun _ ↦ Algebra.commutes ..
+  smul_def' _ _ := ext fun _ ↦ Algebra.smul_def ..
+
+@[simp]
+lemma algebraMap_apply [CommSemiring K] [Semiring β] [Algebra K β] (k : K) :
+    algebraMap K (α →ₛ β) k = const α (algebraMap K β k) := rfl
+
+@[simp]
+lemma algebraMap_apply_apply [CommSemiring K] [Semiring β] [Algebra K β] (k : K) (x : α) :
+    algebraMap K (α →ₛ β) k x = algebraMap K β k := rfl
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Doesn't the `simpNF` linter complain?  Don't mark the previous lemma `simp`

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 13]
```diff
@@ -553,6 +553,87 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+
+lemma algebraMap_eq_smul_one [CommSemiring K] [Semiring β] [Algebra K β] (k : K) :
+    algebraMap K (α →ₛ β) k = k • 1 := Algebra.algebraMap_eq_smul_one k
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: That's what the lemma you used to prove it is for. 
```suggestion
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 14]
```diff
@@ -553,6 +553,87 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+
+instance [Ring β] : Ring (α →ₛ β) where
+
+instance [Monoid K] [MulAction K β] : MulAction K (α →ₛ β) where
+  one_smul _ := ext fun _ ↦ one_smul ..
+  mul_smul _ _ _ := ext fun _ ↦ mul_smul ..
+
+/-- Induced pointwise SMul. -/
+instance [SMul β β] : SMul (α →ₛ β) (α →ₛ β) :=
+  ⟨fun f g => (f.map (· • ·)).seq g⟩
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: I think this is probably not something we need. It will generally come from a `Mul` instance.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 15]
```diff
@@ -553,6 +553,87 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+
+instance [SMul K β] [SMul β β] [IsScalarTower K β β] : IsScalarTower K (α →ₛ β) (α →ₛ β) where
+  smul_assoc _ _ _ := ext fun _ ↦ smul_assoc ..
+
+instance [SMul K β] [SMul β β] [SMulCommClass K β β] : SMulCommClass K (α →ₛ β) (α →ₛ β) where
+  smul_comm _ _ _ := ext fun _ ↦  smul_comm ..
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: You don't want the middle ones here to be `SimpleFunc` but rather another (distinct) type.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 16]
```diff
@@ -553,6 +553,87 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
 theorem smul_eq_map [SMul K β] (k : K) (f : α →ₛ β) : k • f = f.map (k • ·) :=
   rfl
 
+lemma smul_const [SMul K β] (k : K) (b : β) :
+    (k • const α b : α →ₛ β) = const α (k • b) := ext fun _ ↦ rfl
+
+@[simp]
+lemma one_eq_const_one [One β] : (1 : α →ₛ β) = const α 1 := rfl
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: You definitely don't want this to be `simp`.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 14 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Cool. So I will just use the Mul instance on \b. Thanks!

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 12 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Ah...are you saying that the LHS is actually *more* complex than the right, despite syntax? (I think you've said this before here...)

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 14 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Better yet...freeing up the middle term got rid of the need for any such instance!

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 17]
```diff
@@ -553,6 +553,78 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
 theorem smul_eq_map [SMul K β] (k : K) (f : α →ₛ β) : k • f = f.map (k • ·) :=
   rfl
 
+lemma smul_const [SMul K β] (k : K) (b : β) :
+    (k • const α b : α →ₛ β) = const α (k • b) := ext fun _ ↦ rfl
+
+lemma one_eq_const_one [One β] : (1 : α →ₛ β) = const α 1 := rfl
+
+instance [NonUnitalNonAssocSemiring β] : NonUnitalNonAssocSemiring (α →ₛ β) where
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Can you pull back through `Injective.monUnitalNonAssocSemiring` instead? That would ensure you don't create any instance diamonds.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 18]
```diff
@@ -553,6 +553,78 @@ instance instModule [Semiring K] [AddCommMonoid β] [Module K β] : Module K (α
...
+instance [NonUnitalSemiring β] : NonUnitalSemiring (α →ₛ β) where
+  mul_assoc _ _ _ := ext fun _ ↦ mul_assoc ..
+
+instance [Semiring β] : Semiring (α →ₛ β) where
+
+instance [NonUnitalRing β] : NonUnitalRing (α →ₛ β) where
+
+instance [Ring β] : Ring (α →ₛ β) where
+
+instance [Monoid K] [MulAction K β] : MulAction K (α →ₛ β) where
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This would make more sense before the Module instance higher up in the file, as it is weaker

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 17 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean:561]: What map are you thinking of, exactly? We of course have an injective map of \b into \a \to\_s \b, but this goes the wrong way.

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: OK, I've done it. Should I try to pull back as many of these (non-data carrying) instances as I can along coercions like this?

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 18 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Done.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 17 above)
Comment (j-loreaux) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Definitely use the `Function.Injective` technique wherever you can.

But just so we're clear, these instances (like `NonAssocSemiring`) *do* carry data, it's just that this constructor (e.g., `Function.Injective.nonAssocSemiring`) doesn't add *new* data, since the data is required to exist already. Therefore, using those ensures you won't create diamonds.

However, you should also use the `fast_instance%` elaborator when using these injectivity constructors.

**Comment by j-loreaux** [comment]
@eric-wieser am I correct that the only reason there are no `fast_instance%` calls in the surrounding instances is because we simply haven't gotten around to it yet? Or am I missing something?

**Comment by eric-wieser** [comment]
Yes, their absence is surely accidental

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 17 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: I was hoping you'd say something clarifying like this. Thanks for your patience with me figuring out this diamond stuff!! Let me look up the `fast_instance%` elaborator...

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: To be sure I'm getting exactly what you are saying: An instance of `NonAssocSemiring `includes fields like `add : \a \to \a \to \a` which in turn has type `Type n` with `n>0` and so proof irrelevance doesn't apply and therefore the content of `add` has to be carried around. Other fields like `zero_add`, which is a proof of a quantified equality, is a term of a type whose type is Prop, and so proof irrelevance means that there is no data to carry around and hence the `zero_add` field isn't data. I.e. some fields are data and some are not. You are saying that the point is that the constructor `Function.Injective.nonAssocSemiring` doesn't add new data since the input fields fo the constructor are all terms of type `Prop`. There may be danger if one of these inputs were not a term of type `Prop`. Is this right? (I'll also move this comment over to Zulip so I can easily find it later...)

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: In order to use `Function.Injective.nonAssocSemiring` I needed to input some data from the input of the instance, i.e. I wanted to use `NatCast.natCast` coming from [NonAssocSemiring β], so I made a `NatCast` instance on simple functions. I *think* this ensures that the right `natCast` is being used in the subsequent `NonAssocSemiring` instance on simple functions, but I want to point out that I did this in case it's no good.

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: I also noticed here that I'm using `rfl` in places where the other authors of this file have been using the relevent `coe`s. Is my use of `rfl` here losing some transparency/unduly taking advantage of defeqs? What is better form?

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Update: I replaced these `rfl` appearances by the particular coercions because it was more precise. That actually uncovered the need for a coe_natCast lemma...so that was good, I hope.

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: I am tempted to go and define `Function.Involutive.Star` and such, so that the `Star`-related instances also can be handled using these pullbacks...maybe these pullback results aren't needed, though, at this stage? Even if they were, I don't know that they belong in this PR.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 19]
```diff
@@ -511,48 +511,141 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
+
+@[simp, norm_cast]
+lemma coe_natCast [NatCast β] (n : ℕ) :
+    ⇑(↑n : α →ₛ β) = fun _ ↦ ↑n := rfl
+
+instance [NonAssocSemiring β] : NonAssocSemiring (α →ₛ β) :=
+  fast_instance% Function.Injective.nonAssocSemiring (fun f => show α → β from f)
+    SimpleFunc.coe_injective coe_zero coe_one coe_add coe_mul coe_smul coe_natCast
+
+instance [NonAssocRing β] : NonAssocRing (α →ₛ β) where
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This one should use `Function.Injective.nonAssocRing`, but you'll need to declare the `IntCast` instance first, just like `NatCast` above.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 20]
```diff
@@ -511,48 +511,141 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
+  fast_instance% Function.Injective.nonUnitalCommRing (fun f => show α → β from f)
+    coe_injective coe_zero coe_add coe_mul coe_neg coe_sub coe_smul coe_smul
+
+instance [CommRing β] : CommRing (α →ₛ β) where
+
+instance [Semiring β] : Semiring (α →ₛ β) where
+
+instance [NonUnitalRing β] : NonUnitalRing (α →ₛ β) where
+
+instance [Ring β] : Ring (α →ₛ β) where
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: We want these to follow the pattern too, I think.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 21]
```diff
@@ -511,48 +511,141 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
+  commutes' _ _ := ext fun _ ↦ Algebra.commutes ..
+  smul_def' _ _ := ext fun _ ↦ Algebra.smul_def ..
+
+lemma algebraMap_apply [CommSemiring K] [Semiring β] [Algebra K β] (k : K) :
+    algebraMap K (α →ₛ β) k = const α (algebraMap K β k) := rfl
+
+@[simp]
+lemma algebraMap_apply_apply [CommSemiring K] [Semiring β] [Algebra K β] (k : K) (x : α) :
+    algebraMap K (α →ₛ β) k x = algebraMap K β k := rfl
+section Star
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]:
```suggestion
    algebraMap K (α →ₛ β) k x = algebraMap K β k := rfl

section Star
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 19 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This is interesting! So the `where` instances that automatically fill the fields are *not as stable* as the ones we've used Injective.X with?

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 20 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Wow...I'm going to have to pick your brain about this...

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 22]
```diff
@@ -511,48 +511,161 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
     coe_injective coe_smul
 
 theorem smul_eq_map [SMul K β] (k : K) (f : α →ₛ β) : k • f = f.map (k • ·) :=
   rfl
 
+lemma smul_const [SMul K β] (k : K) (b : β) :
+    (k • const α b : α →ₛ β) = const α (k • b) := ext fun _ ↦ rfl
+
+lemma one_eq_const_one [One β] : (1 : α →ₛ β) = const α 1 := rfl
+
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: The reverse direction of this already appears above as `const_one`, and it is marked `simp`.
```suggestion
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 23]
```diff
@@ -511,48 +511,161 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
+    map_add' _ _ := ext fun _ ↦ algebraMap K β |>.map_add ..}
+  commutes' _ _ := ext fun _ ↦ Algebra.commutes ..
+  smul_def' _ _ := ext fun _ ↦ Algebra.smul_def ..
+
+lemma algebraMap_apply [CommSemiring K] [Semiring β] [Algebra K β] (k : K) :
+    algebraMap K (α →ₛ β) k = const α (algebraMap K β k) := rfl
+
+@[simp]
+lemma algebraMap_apply_apply [CommSemiring K] [Semiring β] [Algebra K β] (k : K) (x : α) :
+    algebraMap K (α →ₛ β) k x = algebraMap K β k := rfl
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: To match what is done for `1` earlier in the file I think we should do this:
```suggestion
@[simp]
lemma const_algebraMap [CommSemiring K] [Semiring β] [Algebra K β] (k : K) :
    const α (algebraMap K β k) = algebraMap K (α →ₛ β) k := rfl

@[simp]
lemma coe_algebraMap [CommSemiring K] [Semiring β] [Algebra K β] (k : K) (x : α) :
    ⇑(algebraMap K (α →ₛ β)) = algebraMap K (α → β) := rfl
```
Note that your `apply_apply` lemma will still be provable `by simp` (so it's not necessary to include it).

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 24]
```diff
@@ -511,48 +511,161 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
+
+section Star
+
+instance [Star β] : Star (α →ₛ β) where
+  star f := f.map Star.star
+
+@[simp]
+lemma star_apply [Star β] {f : α →ₛ β} {x : α} : star f x = star (f x) := rfl
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: For consistency:
```suggestion
@[simp]
lemma coe_star [Star β] {f : α →ₛ β} : ⇑(star f) = star ⇑f := rfl
```
I'm not sure the second `⇑` is necessary, but if you remove it, you should check that Lean elaborates this the right way and that it isn't a syntactic tautology.

**Review by j-loreaux — COMMENTED** [review]
I think this is probably the last of it.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 24 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Hmm. Let me figure out how to effectively check that...

Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: It seems the second arrow *is* necessary, since `#reduce` applied to `star f` doesn't reduce to the same thing as `\u= star f` does, so the elaborator would silently coerce the RHS and we'd end up with a syntactic tautology. Just FYI.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 25]
```diff
@@ -511,48 +512,160 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
+
+@[simp, norm_cast]
+lemma coe_intCast [IntCast β] (n : ℤ) :
+    ⇑(↑n : α →ₛ β) = fun _ ↦ ↑n := rfl
+
+instance [NonAssocRing β] : NonAssocRing (α →ₛ β) :=
+  fast_instance% Function.Injective.nonAssocRing (fun f => show α → β from f) coe_injective
+    coe_zero coe_one coe_add coe_mul coe_neg coe_sub coe_smul coe_smul coe_natCast coe_intCast
+
+instance [NonAssocRing β] : NonAssocRing (α →ₛ β) where
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This is now duplicated
```suggestion
```

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 26]
```diff
@@ -511,48 +512,160 @@ theorem zpow_apply [DivInvMonoid β] (z : ℤ) (f : α →ₛ β) (a : α) : (f
...
+
+instance [NonUnitalCommSemiring β] : NonUnitalCommSemiring (α →ₛ β) :=
+  fast_instance% Function.Injective.nonUnitalCommSemiring (fun f => show α → β from f)
+    coe_injective coe_zero coe_add coe_mul coe_smul
+
+instance [CommSemiring β] : CommSemiring (α →ₛ β) where
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean]: This should be using `Function.Injective.commSemiring`

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 25 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Oops! Good catch.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 26 above)
Comment (JonBannon) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean]: Drat! Sorry for missing that!

**Comment by JonBannon** [comment]
Jireh, I feel like you might have told me this before, but it just occurred to me again. I've been requesting a review before waiting for the CI checks to complete. It occurred to me that the system may send the requests straight away, creating a situation where you show up to review the file when one of the checks have failed. (This failure has happened several times this PR...) SORRY about that!!! Especially with how busy you must be at the moment.

**Comment by j-loreaux** [comment]
@JonBannon note that I updated the PR title and description. Thanks!

bors merge
